US09399639B2
Step 2) (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl isobutyrate
To a mixture of N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.1 g, 0.2 mmol) and Et3N (57 μL, 0.4 mmol) in DMF (1 mL) was added chloromethyl isobutyrate (34 mg, 0.25 mmol) at rt. The reaction was stirred at rt for 16 h, then concentrated in vacuo. The residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=4/1 to 3/1) to afford the title compound as a white solid (45 mg, 37.5%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.2 mmol, 0.1 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | Et3N | 0.4 mmol, 57 μL | CCN(CC)CC | C6H15N
reactant | chloromethyl isobutyrate | 0.25 mmol, 34 mg | C(C(C)C)(=O)OCCl | C5H9ClO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl isobutyrate | 45 mg, 37.5% | C(C(C)C)(=O)OCN1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O | C28H26ClF2N3O5S
